US07067540B2
Preparation of 4-(benzylamino)-1-(3-fluorobenzyl)pyridin-2(1H)-one
Heated a reaction mixture of 1-(3-fluorobenzyl)-4-hydroxypyridin-2(1H)-one (1.005 g, 4.5 mmol) in benzylamine (15 mL) at reflux (1850 C) under nitrogen atmosphere for 24 h. The reaction was monitored by ES-MS (MH+ 309). The solvent was removed by vacuum distillation to give a yellow residue.

reactant | 1-(3-fluorobenzyl)-4-hydroxypyridin-2(1H)-one | 4.5 mmol, 1.005 g | FC=1C=C(CN2C(C=C(C=C2)O)=O)C=CC1 | C12H10FNO2
solvent | benzylamine | 15 mL | C(C1=CC=CC=C1)N | C7H9N
product | 4-(benzylamino)-1-(3-fluorobenzyl)pyridin-2(1H)-one | C(C1=CC=CC=C1)NC1=CC(N(C=C1)CC1=CC(=CC=C1)F)=O | C19H17FN2O
